*****************************************************************
* NXP BUK7Y153-100E
*
* Polarity N-Channel
* Ratings 100V/1.530000E-001OHMS/9.37531666642195A
*
* Date Created Mon Feb 04 07:45:34 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y153-100E DRAIN GATE SOURCE

LD DRAIN 5 3e-11
RLD2 DRAIN 5 0.075398223686155
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 8e-10
RLS2 SOURCE 8 2.01061929829747
RLS1 8 7 0.00062

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0922961764172246 TC=0.00569069085867718,3.61679518751659E-05
RBD 9 4 0.00572728025116814 TC=0.00569069085867718,3.61679518751659E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 3.15e-10
RG 1 2 0.841673761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	184.628
+ -16	184.413
+ -10	183.78
+ -6	182.056
+ -5	176.611
+ -4	303.111
+ -3	267.459
+ -2	213.805
+ -1	166.115
+ -0.5	140.229
+ -0.2	124.102
+ -0.1	114.957
+ 0	116.003
+ 0.1	117.213
+ 0.2	105.654
+ 0.5	95.816
+ 1	84.962
+ 2	68.165
+ 3	60.695
+ 4	56.709
+ 5	54.17
+ 6	52.398
+ 8	49.081
+ 10	46.465
+ 12	44.12
+ 15	41.176
+ 20	37.612
+ 25	34.961
+ 30	32.875
+ 50	27.527



.MODEL MINT NMOS(Vto=3.49078318107991 Kp=12 Nfs=870000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=6.91827812167077e-14
+ N=1 M=0.63 VJ=0.8 Fc=0.5 Cjo=1.2377e-10 Tt=2.03083333333333e-08)

.ENDS

